US03966831
A quantity of 2 g of di-tertbutyl peroxide was dissolved in 100g of β-bromoethyl bromobenzene and the solution was added through a motor-driven syringe into the reactor at a rate of 60g/h, together with 25 g of methanol and with nitrogen which was passed in at a rate of 2 l/h. The reactor used in this example was a glass spiral made of 6 mm wide and 5 m long tube heated to 300°-320°C. The products were collected in a trap immersed in an ice bath while the methyl bromide was trapped in a container positioned in liquid nitrogen. The liquid products were then subjected to fractional distillation under vacuum. There were obtained 58 g bromostyrene and 12 g unconverted reactant. The yield was 95% bromostyrene.

reactant | di-tertbutyl peroxide | 2 g | C(C)(C)(C)OOC(C)(C)C | C8H18O2
reactant | methanol | 25 g | CO | CH4O
reactant | β-bromoethyl bromobenzene | BrCCC1=C(C=CC=C1)Br | C8H8Br2
product | bromostyrene | 58 g | BrC=CC1=CC=CC=C1 | C8H7Br
